US04616015
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2 g), furfural (1.41 g), DMF (25 ml) and benzene (25 ml) was refluxed in an apparatus equipped with a Dean-Stark water separator for 3 hours. The reaction mixture was evaporated in vacuo and the resultant residue was triturated with diethyl ether to give 6-[4-(2-furylmethylenamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.47 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | furfural | 1.41 g | C(C1=CC=CO1)=O | C5H4O2
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 6-[4-(2-furylmethylenamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.47 g | O1C(=CC=C1)C=NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C15H14N4O2
